US06911463B2
Methyl indole-4-carboxylate (7.0 g, 40 mmol) and Eschenmoser's salt (N,N-dimethylmethyleneammonium iodide; 7.8 g, 42 mmol) are combined in 130 ml of acetic acid. After heating at 65° C. for 2 hours, the reaction mixture is concentrated in vacuo. The resulting solid is triturated with ethyl acetate, filtered and dried in vacuo to give 3-dimethylaminomethyl-1H-indole-4-carboxylic acid methyl ester hydroiodide in quantitative yield.

reactant | Methyl indole-4-carboxylate | 40 mmol, 7.0 g | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
reactant | Eschenmoser's salt | 42 mmol, 7.8 g | C[N+](=C)C.[I-]
solvent | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
product | 3-dimethylaminomethyl-1H-indole-4-carboxylic acid methyl ester hydroiodide | quantitative yield | I.COC(=O)C=1C=2C(=CNC2C=CC1)CN(C)C | InChI=1S/C13H16N2O2.HI/c1-15(2)8-9-7-14-11-6-4-5-10(12(9)11)13(16)17-3;/h4-7,14H,8H2,1-3H3;1H
